US04794120
Imidazo[2,1-b]thiazole-6-carboxylic acid [(5-nitro-2-furyl)-2-propen1-ylidene]hydrazide
According to the same procedure as in Example 1.2., 1.1 g (0.065 mole) of 3-(5-nitro-2-furyl)-2-propenal and 1.2 g of imidazo[2,1-b]-thiazole-6-carbohydrazide are reacted in methanol. The compound, melting point 332° C., is obtained.

reactant | 3-(5-nitro-2-furyl)-2-propenal | 0.065 mole, 1.1 g | [N+](=O)([O-])C1=CC=C(O1)C=CC=O | C7H5NO4
reactant | imidazo[2,1-b]-thiazole-6-carbohydrazide | 1.2 g | S1C=2N(C=C1)C=C(N2)C(=O)NN | C6H6N4OS
solvent | methanol | CO | CH4O
product | Imidazo[2,1-b]thiazole-6-carboxylic acid [(5-nitro-2-furyl)-2-propen1-ylidene]hydrazide | [N+](=O)([O-])C1=CC=C(O1)C=CC=NNC(=O)C=1N=C2SC=CN2C1 | C13H9N5O4S
